US06291455B1
A mixture of 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline (1 07 mg, 0.4 mmol) and 4-bromo-2-fluoroaniline (76 mg, 0.4 mmol) in isopropanol (7 ml) was heated at reflux for 2 hours. The mixture was allowed to cool to ambient temperature, the precipitated solid was collected by filtration, washed with isopropanol and ether and dried to give 4-(4-bromo-2-fluoroanilino)6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride (151 mg, 82%) as an off-white solid.

reactant | 4-chloro-6-methoxy-7-(2-methoxyethoxy)quinazoline | 0.4 mmol | ClC1=NC=NC2=CC(=C(C=C12)OC)OCCOC | C12H13ClN2O3
reactant | 4-bromo-2-fluoroaniline | 0.4 mmol, 76 mg | BrC1=CC(=C(N)C=C1)F | C6H5BrFN
solvent | isopropanol | 7 ml | C(C)(C)O | C3H8O
product | 4-(4-bromo-2-fluoroanilino)6-methoxy-7-(2-methoxyethoxy)quinazoline hydrochloride | 151 mg, 82% | Cl.BrC1=CC(=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCOC)C=C1)F | InChI=1S/C18H17BrFN3O3.ClH/c1-24-5-6-26-17-9-15-12(8-16(17)25-2)18(22-10-21-15)23-14-4-3-11(19)7-13(14)20;/h3-4,7-10H,5-6H2,1-2H3,(H,21,22,23);1H
